US04415572
A mixture of 9 g of 6-[bis(2-hydroxyethyl)amino]-3,4-dihydrocarbostyril, 4.1 g of 4-methoxybenzylamine and 7.6 g of polyphosphoric acid prepared from 3.8 g of phosphorus pentoxide and 3.8 g of phosphoric acid was reacted at 160° to 170° C. for about 6 hours. After allowing to cool, to the reaction mixture was added dropwise about 500 ml of water to dissolve. The solution was neutralized with an aqueous 48% sodium hydroxide solution and extracted with chloroform. After drying the extract over potassium carbonate, chloroform was distilled off. Recrystallization of the residue from ethanol gave 8 g of 6-[4-(4-methoxybenzyl)-1-piperazinyl]-3,4-dihydrocarbostyril, m.p. 196°-198° C., colorless needles.

reactant | 6-[bis(2-hydroxyethyl)amino]-3,4-dihydrocarbostyril | 9 g | OCCN(C=1C=C2CCC(NC2=CC1)=O)CCO | C13H18N2O3
reactant | 4-methoxybenzylamine | 4.1 g | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | phosphorus pentoxide | 3.8 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | phosphoric acid | 3.8 g | P(O)(O)(O)=O | H3O4P
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | about 500 ml | O | H2O
product | 6-[4-(4-methoxybenzyl)-1-piperazinyl]-3,4-dihydrocarbostyril | 8 g | COC1=CC=C(CN2CCN(CC2)C=2C=C3CCC(NC3=CC2)=O)C=C1 | C21H25N3O2
